US05246948
Synthesis of 4-(3-picolinoylaminomethylthio)pyridine
To a mixture of 1.11 g (10 mmol) of 4-mercaptopyridine and 1.52 g (10 mmol) of N-(hydroxymethyl)nicotinamide, 30 ml of trifluoroacetic acid was added, and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off and 30 ml of ethanol was added to the residue. The solvent was distilled off and water was added to the residue. The mixture was neutralized with saturated aqueous sodium bicarbonate, followed by extraction with chloroform. After washing with saturated saline, the extract was dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by column chromatography (eluent: ethyl acetate/ethanol =5:1) to give 390 mg of the desired compound (15.9% yield, yellow solid).

reactant | 4-mercaptopyridine | 10 mmol, 1.11 g | SC1=CC=NC=C1 | C5H5NS
reactant | N-(hydroxymethyl)nicotinamide | 10 mmol, 1.52 g | OCNC(C1=CN=CC=C1)=O | C7H8N2O2
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(3-picolinoylaminomethylthio)pyridine | 390 mg, 15.9% yield | N1=CC(=CC=C1)C(=O)NCSC1=CC=NC=C1 | C12H11N3OS
